US07635699B2
To a stirred solution of methyl 2-bromo-7-(2,4-dichlorophenyl)-5-methyl-[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate (30 mg, 0.07 mmol) in dioxane (2 mL) was added thiomorpholine (15 μL, 0.14 mmol). After heating to 75° C. for 16 h, the reaction was concentrated under reduced pressure and diluted with EtOAc. The organic layer was washed with satd aq NH4Cl and brine prior to drying over anhydrous MgSO4. Filtration, concentration under reduced pressure and purification by silica gel chromatography afforded methyl 7-(2,4-dichlorophenyl)-5-methyl-2-thiomorpholino-[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate (28 mg, 90%) as a yellow solid.

reactant | methyl 2-bromo-7-(2,4-dichlorophenyl)-5-methyl-[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate | 0.07 mmol, 30 mg | BrC1=NN2C(N=C(C(=C2C2=C(C=C(C=C2)Cl)Cl)C(=O)OC)C)=N1 | C14H9BrCl2N4O2
reactant | thiomorpholine | 0.14 mmol, 15 μL | N1CCSCC1 | C4H9NS
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | methyl 7-(2,4-dichlorophenyl)-5-methyl-2-thiomorpholino-[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate | 28 mg, 90% | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=2N1N=C(N2)N2CCSCC2)C)C(=O)OC | C18H17Cl2N5O2S
